### PR TITLE
refactor: add `hom` lemmas for the `MonoidalCategory` structure on `ModuleCat`

### PR DESCRIPTION
**Pull request by eric-wieser**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/ModuleCat/Monoidal/Basic.lean [hunk 1]
```diff
@@ -171,11 +172,60 @@ instance monoidalCategory : MonoidalCategory (ModuleCat.{u} R) := MonoidalCatego
...
+    (ρ_ M).hom.hom = (TensorProduct.rid _ _).toLinearMap :=
+  rfl
+
+@[simp]
+theorem hom_inv_rightUnitor {M : ModuleCat.{u} R} :
+    (ρ_ M).inv.hom = (TensorProduct.rid _ _).symm.toLinearMap :=
+  rfl
+
+@[simp]
+theorem hom_associator_hom {M N K : ModuleCat.{u} R} :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Category/ModuleCat/Monoidal/Basic.lean:215]: I can't ask you to reassociate the tokens in the name, but I can ask you to commute them!
```suggestion
theorem hom_hom_associator {M N K : ModuleCat.{u} R} :
```

File: Mathlib/Algebra/Category/ModuleCat/Adjunctions.lean [hunk 2]
```diff
@@ -42,8 +42,14 @@ def free : Type u ⥤ ModuleCat R where
...
 
+@[simp]
+theorem carrier_obj_free {X : Type u} : ((free R).obj X).carrier = (X →₀ R) := rfl
+@[simp]
+theorem hom_map_free {X Y : Type u} (f : X → Y) :
+    ((free R).map f).hom = Finsupp.lmapDomain _ _ f := rfl
+
 /-- Constructor for elements in the module `(free R).obj X`. -/
-noncomputable def freeMk {X : Type u} (x : X) : (free R).obj X := Finsupp.single x 1
+noncomputable abbrev freeMk {X : Type u} (x : X) : (free R).obj X := Finsupp.single x 1
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Adjunctions.lean:52]: The use of `def` was a layer of isolation between `free` and `Finsupp.single`  which was made on purpose. I would not recommend trying to change this.

Comment (eric-wieser) [reply Mathlib/Algebra/Category/ModuleCat/Adjunctions.lean:52]: The issue here is that there is no casting function to key on when converting between the two, and so this is an abstraction later that can never be unfolded automatically.

File: Mathlib/Algebra/Category/ModuleCat/Adjunctions.lean [hunk 3]
```diff
@@ -160,44 +176,48 @@ instance : (free R).Monoidal :=
       μIso := μIso R
       μIso_hom_natural_left := fun {X Y} f X' ↦ by
         rw [← cancel_epi (μIso R X X').inv]
-        aesop
+        ext x
+        simp [μIso_inv_freeMk R, μIso_hom_freeMk_tmul_freeMk R]
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Adjunctions.lean:180]: Do we understand why `simp [μIso_inv_freeMk, μIso_hom_freeMk_tmul_freeMk]` (or just `aesop`) does not work here, and if so how to fix it? The purpose of using a `def` rather than `abbrev` was precisely to improve automation. Reverting this design seems to break the part of automation which worked.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Algebra/Category/ModuleCat/Adjunctions.lean (hunk 3 above)
Comment (101damnations) [reply Mathlib/Algebra/Category/ModuleCat/Adjunctions.lean]: I'm not really sure but I guess the simplest fix is phrasing those lemmas in terms of `Finsupp.single` instead (I've tried this in the latest commit)

File: Mathlib/Algebra/Category/ModuleCat/Adjunctions.lean (hunk 2 above)
Comment (kbuzzard) [reply Mathlib/Algebra/Category/ModuleCat/Adjunctions.lean:53]: Andrew Yang (standing next to me) has suggested that we do want lemmas like
```
@[simp]
theorem carrier_tensorObj {M N : ModuleCat.{u} R} :
    (M ⊗ N).carrier = TensorProduct R M.carrier N.carrier :=
  rfl
```
to be simp globally, but a temporary fix would be to make them local simp lemmas if that's what Joel thinks is best for now. The changes in this PR look very positive to me (but I'm certainly no expert in simp and normal forms etc).

Comment (101damnations) [reply Mathlib/Algebra/Category/ModuleCat/Adjunctions.lean]: I think I've got this working with the `@[simp]`s removed from `carrier_obj_free, hom_map_free` and `freeMk` made a def again. This should make the diff smaller and if we do end up wanting `carrier_obj_free, hom_map_free` to be simp lemmas maybe that should be left to a different PR

File: Mathlib/Algebra/Category/ModuleCat/Adjunctions.lean [hunk 4]
```diff
@@ -139,14 +154,17 @@ def μIso (X Y : Type u) :
 
 @[simp]
 lemma μIso_hom_freeMk_tmul_freeMk {X Y : Type u} (x : X) (y : Y) :
-    (μIso R X Y).hom (freeMk x ⊗ₜ freeMk y) = freeMk ⟨x, y⟩ := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Category/ModuleCat/Adjunctions.lean:142]: I'd argue that actually we're missing the lemma that says `(μIso R X Y).hom.hom = (finsuppTensorFinsupp' R _ _).toLinearMap` and similarly for `inv.hom`.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Algebra/Category/ModuleCat/Adjunctions.lean (hunk 4 above)
Comment (kbuzzard) [reply Mathlib/Algebra/Category/ModuleCat/Adjunctions.lean:142]: @eric-wieser what do you think?

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
